US05034417
A mixture of 3'-chloro-4'-nitroacetophenone (1.5 g), 4-chlorothiophenol (1.63 g) and potassium carbonate (1.56 g) in toluene (15 ml) was stirred at 70° C. for 5 hours. Ethyl acetate and water were added, and the organic layer was separated, washed with water, dried and evaporated to dryness. The residue was washed with toluene to give yellow crystals of 3'-(4-chlorophenylthio)-4'-nitroacetophenone (1.9 g).

reactant | 3'-chloro-4'-nitroacetophenone | 1.5 g | ClC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C8H6ClNO3
reactant | 4-chlorothiophenol | 1.63 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium carbonate | 1.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3'-(4-chlorophenylthio)-4'-nitroacetophenone | 1.9 g | ClC1=CC=C(C=C1)SC=1C=C(C=CC1[N+](=O)[O-])C(C)=O | C14H10ClNO3S
